US07022711B2
6-(3,5-Dimethoxy-phenyl)-8-ethyl-2-(pyridin-4-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one
A mixture of the product of Example 7, 6-(3,5-dimethoxy-phenyl)-8-ethyl-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one (0.280 g, 10.75 mmol), and 4-aminopyridine (0.5 g, 15.3 mmol) was placed in a small round bottom flask and immersed in an oil bath at 180° C. for 5 minutes with stirring. The reaction mixture was cooled to 20° C. and the mixture triturated with water (10 mL). The insoluble product was filtered and dried in air on the filter. The crude product was purified by column chromatography eluting with a solvent gradient starting with pure chloroform and finishing with methanol/chloroform (1:20). The product was crystallized by suspending it in methanol (10 mL) and adding methylene chloride (30 mL) until a solution resulted. The solution was concentrated on a steam bath to approximately 8 mL in volume. The precipitated product was filtered and washed with methanol (0.5 mL) to afford 112 mg of the titled compound. mp 305–307° C.

reactant | 6-(3,5-dimethoxy-phenyl)-8-ethyl-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one | 10.75 mmol, 0.280 g | COC=1C=C(C=C(C1)OC)C1=CC2=C(N=C(N=C2)S(=O)C)N(C1=O)CC | C18H19N3O4S
reactant | 4-aminopyridine | 15.3 mmol, 0.5 g | NC1=CC=NC=C1 | C5H6N2
product | 6-(3,5-Dimethoxy-phenyl)-8-ethyl-2-(pyridin-4-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one | 112 mg | COC=1C=C(C=C(C1)OC)C1=CC2=C(N=C(N=C2)NC2=CC=NC=C2)N(C1=O)CC | C22H21N5O3
